US04001244
50 parts of p-fluorobenzaldehyde and 65 parts of 3,4-dimethoxyphenethylamine are combined and heated over a steam bath in a nitrogen atmosphere for 90 minutes. Then 800 parts by volume of 20% by weight hydrochloric acid is added and heating is continued for an additional 3 hours. The reaction mixture is cooled, made alkaline with sodium hydroxide and extracted with methylene chloride. The organic layer is dried over anhydrous calcium sulfate and stripped in vacuo to give 6,7-dimethoxy-1-(4-fluorophenyl)-1,2,3,4-tetrahydroisoquinoline. After crystallization from a mixture of ethyl ether and n-hexane, that product melts at about 145°-150°C.

reactant | p-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 3,4-dimethoxyphenethylamine | COC=1C=C(CCN)C=CC1OC | C10H15NO2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
product | 6,7-dimethoxy-1-(4-fluorophenyl)-1,2,3,4-tetrahydroisoquinoline | COC=1C=C2CCNC(C2=CC1OC)C1=CC=C(C=C1)F | C17H18FNO2
